US09079861B2
To a solution of (S)-4-(2-hydroxy-2-methylpropyl)-4-phenyl-1-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)tetrahydropyrimidin-2(1H)-one (170 mg, 0.36 mmol) and 4-iodo-1-methylpyridin-2(1H)-one (100 mg, 0.43 mmol) in dry 1,4-dioxane (5 mL) was added 2M aq Cs2CO3 (1 mL) and Pd(PPh3)Cl2 (21.4 mg, 0.03 mmol). After addition, the mixture was heated to reflux for 2 h under N2 atmosphere. The solid was filtered off and diluted with water (30 mL) and EtOAc (30 mL). The mixture was extracted with EtOAc (3×40 mL), and the combined organic layer was washed with brine (50 mL), dried over Na2SO4, filtered, and concentrated to dryness. The residue was purified by prep TLC to afford (S)-4-(2-hydroxy-2-methylpropyl)-1-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-4-phenyltetrahydropyrimidin-2(1H)-one (90 mg, yield: 54.4%). 1H NMR (CDCl3): 0.661 (s, 3H), 1.23 (s, 3H), 1.49-1.50 (m, 3H), 1.98-2.02 (m, 2H), 2.05-2.13 (m, 1H), 2.17-2.18 (m, 2H), 2.60-2.63 (m, 1H), 2.74-2.78 (m, 1H), 3.57 (s, 3H), 5.87-5.92 (m, 1H), 6.35-6.37 (m, 1H), 6.71-6.72 (d, 1H), 7.18-7.22 (m, 2H), 7.23-7.25 (m, 1H), 7.30-7.32 (m, 2H), 7.33-7.37 (m, 5H).

reactant | (S)-4-(2-hydroxy-2-methylpropyl)-4-phenyl-1-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)tetrahydropyrimidin-2(1H)-one | 0.36 mmol, 170 mg | OC(C[C@]1(NC(N(CC1)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C1=CC=CC=C1)(C)C | C28H39BN2O4
reactant | 4-iodo-1-methylpyridin-2(1H)-one | 0.43 mmol, 100 mg | IC1=CC(N(C=C1)C)=O | C6H6INO
reactant | Cs2CO3 | 2M, 1 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (S)-4-(2-hydroxy-2-methylpropyl)-1-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-4-phenyltetrahydropyrimidin-2(1H)-one | 90 mg, yield: 54.4% | OC(C[C@]1(NC(N(CC1)[C@@H](C)C1=CC=C(C=C1)C1=CC(N(C=C1)C)=O)=O)C1=CC=CC=C1)(C)C | C28H33N3O3
